US07115635B2
Synthesis of 5-(4-acetylphenyl)-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]valeramide
5-(4-Acetylphenyl)valeric acid (996 mg) and 4-amino-1-(3,4-dichlorobenzyl)piperidine dihydrochloride (1.50 g) were suspended in dichloromethane (40 mL), and triethylamine (1.26 mL) and EDC hydrochloride (953 mg) were added to the suspension. The suspension was stirred for 12 hrs. The reaction mixture was washed with water and then saturated brine and dried, and the solvent was evaporated under reduced pressure. Diethyl ether was added to the residue to crystallize to give the title compound (1.16 g) as a white solid.

reactant | 5-(4-Acetylphenyl)valeric acid | 996 mg | C(C)(=O)C1=CC=C(C=C1)CCCCC(=O)O | C13H16O3
reactant | 4-amino-1-(3,4-dichlorobenzyl)piperidine dihydrochloride | 1.50 g | Cl.Cl.NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl
reactant | triethylamine | 1.26 mL | C(C)N(CC)CC | C6H15N
reactant | EDC hydrochloride | 953 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(4-acetylphenyl)-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]valeramide | 1.16 g | C(C)(=O)C1=CC=C(C=C1)CCCCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C25H30Cl2N2O2
